US08053438B2
To a mixture of tris(dibenzylideneacetone)dipalladium(0) (0.021 g, 0.023 mmol), Na2CO3 (0.081 g, 0.76 mmol), 9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine (0.040 g, 0.069 mmol), benzo[d]thiazol-2-amine (0.110 g, 0.732 mmol), and 1-(4-(3-(6-chloropyridin-3-yloxy)pyrazin-2-yl)piperidin-1-yl)ethanone (0.182 g, 0.547 mmol) was added PhMe (3 mL). The reaction mixture was degassed and heated to 100° C. for 40 h. The reaction mixture was diluted with Teac and the organic phase was washed with water (1×), brine (1×), dried over MgSO4, filtered, and concentrated. Purification by flash column chromatography on silica gel (10% to 80% Teac (10% MeOH) in hexanes) gave 1-(4-(3-(6-(benzo[d]thiazol-2-ylamino)pyridin-3-yloxy)pyrazin-2-yl)piperidin-1-yl)ethanone as a white solid. MS (ESI, pos. ion) m/z: 447.2 (M+1). IC50 (uM) ++.

reactant | Na2CO3 | 0.76 mmol, 0.081 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | diphenylphosphine | 0.069 mmol, 0.040 g | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | benzo[d]thiazol-2-amine | 0.732 mmol, 0.110 g | S1C(=NC2=C1C=CC=C2)N | C7H6N2S
reactant | 1-(4-(3-(6-chloropyridin-3-yloxy)pyrazin-2-yl)piperidin-1-yl)ethanone | 0.547 mmol, 0.182 g | ClC1=CC=C(C=N1)OC=1C(=NC=CN1)C1CCN(CC1)C(C)=O | C16H17ClN4O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.023 mmol, 0.021 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | PhMe | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(4-(3-(6-(benzo[d]thiazol-2-ylamino)pyridin-3-yloxy)pyrazin-2-yl)piperidin-1-yl)ethanone | S1C(=NC2=C1C=CC=C2)NC2=CC=C(C=N2)OC=2C(=NC=CN2)C2CCN(CC2)C(C)=O | C23H22N6O2S
